US07342127B2
To a stirred solution of ethyl malonylchloride (7.2 μl, 0.056 mmol) and compound 5-(4-amino-2,6-dibromo-3-methylphenoxy)-2-hydroxy-3-isopropylbenzaldehyde of Part 8E (25 mg, 0.056 mmol) in THF (0.5 mL) was added Et3N (15.7 μl, 0.112 mmol) at 4° C. After 30 minutes stirring at room temperature, the reaction mixture was washed with NH4Cl (saturated aqueous solution) and the organic phase removed in vacuo. The water phase was extracted with CHC13 and the two phases were separated with a phase separator (IST). The organic phase was concentrated and the resulting residue was purified on column (silica gel, gradient elution: n-heptane/EtOAc from 1:0 to 7:3) to give 15 mg (48%) of N-[3,5-dibromo-4-[3-formyl-4-hydroxy-5-isopropylphenoxy]-2-methylphenyl]-malonamic acid ethyl ester as a light yellow residue.

reactant | ethyl malonylchloride | 0.056 mmol, 7.2 μl | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | 5-(4-amino-2,6-dibromo-3-methylphenoxy)-2-hydroxy-3-isopropylbenzaldehyde | NC1=C(C(=C(OC=2C=C(C(=C(C=O)C2)O)C(C)C)C(=C1)Br)Br)C | C17H17Br2NO3
reactant | Et3N | 0.112 mmol, 15.7 μl | CCN(CC)CC | C6H15N
reactant | THF | 0.5 mL | C1CCOC1 | C4H8O
product | N-[3,5-dibromo-4-[3-formyl-4-hydroxy-5-isopropylphenoxy]-2-methylphenyl]-malonamic acid ethyl ester | 15 mg, 48% | C(C)OC(CC(=O)NC1=C(C(=C(C(=C1)Br)OC1=CC(=C(C(=C1)C(C)C)O)C=O)Br)C)=O | C22H23Br2NO6
